Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheter with DES to distal RCA
 
History of Present Illness:
___ year old male with cardiac history of hypertension and 
dyslipidemia who was in his usual state of health until this 
morning. He reports being fairly active until he retired six 
months ago and has been sedentary since than. He was working in 
his yard this morning and then took a nap in the afternoon. He 
woke up with ___ elephant sitting on him like chest pressure 
without any associated symptoms. He called his wife who took him 
to ___. His EKG at ___ was concerning 
for inferior STEMI with reciprocal depression in I and aVL. He 
was given aspirin and plavix loaded with 600 mg x 1. He was 
subsequently transferred to ___.
.
Cardiac cath revealed thrombus in distal RCA, 40% left main, 40% 
mid LAD and 70% OM1. His course was complicated by one episode 
of hypotension. He received promus DES to his RCA with 0% 
residual stenosis. He was transferred to CCU on integrillin 
drip.
.
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: Dyslipidemia, Hypertension  
2. CARDIAC HISTORY:  
- CABG:  None
- PERCUTANEOUS CORONARY INTERVENTIONS:  None
- PACING/ICD:  None
3. OTHER PAST MEDICAL HISTORY:  None
 
Social History:
___
Family History:
- No family history of early MI, arrhythmia, cardiomyopathies, 
or sudden cardiac death; otherwise non-contributory.  
- Mother:  ___ cancer
- Father:  Leg cancer
- Brother: ___ cancer
 
Physical Exam:
Admission Exam
GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Anicteric. PERRLA. EOMI
NECK: Supple with JVP of 8 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs or gallops appreciated 
LUNGS: CTAB. No crackles or wheezing noted
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas. 

 
Pertinent Results:
___ 06:40PM BLOOD WBC-10.4 RBC-4.80 Hgb-14.4 Hct-40.3 
MCV-84 MCH-30.0 MCHC-35.7* RDW-13.3 Plt ___
___ 06:40PM BLOOD ___ PTT-150* ___
___ 06:40PM BLOOD Glucose-126* UreaN-20 Creat-0.9 Na-132* 
K-3.5 Cl-98 HCO3-24 AnGap-14
___ 06:40PM BLOOD CK(CPK)-62

ECG:  NSR. NA. NI. Q waves and ST elevation (III > II) in 
inferior leads with reciprocal depressions in I and aVL.    
  
ECHO: The left atrium is mildly dilated. No atrial septal defect 
is seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and global 
systolic function (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded, but there is a suggestion of possible mid to distal 
hypokinesis of the inferolateral segments in some views . Right 
ventricular chamber size is normal. with normal free wall 
contractility. The abdominal aorta is mildly dilated. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. The mitral valve leaflets are 
elongated. Trivial mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is no 
pericardial effusion. 

IMPRESSION: Normal left ventricular cavity size with mild left 
ventricular hypertrophy and globally preserved systolic function 
with possible regional wall motion abnormalities as described 
above. Mildly dilated abdominal aorta. No clinically significant 
valvular disease. Normal pulmonary artery systolic pressure.  

CARDIAC CATH:  LMCA:40%; LAD:40% Mid; LCx:70%OM1: RCA: distal 
occluded s/p promus DES with 0% residual stenosis. 
.
On discharge: 
___ 07:10AM BLOOD WBC-9.9 RBC-4.94 Hgb-15.4 Hct-42.9 MCV-87 
MCH-31.1 MCHC-35.8* RDW-13.4 Plt ___
___ 07:10AM BLOOD ___
___ 07:10AM BLOOD Glucose-123* UreaN-17 Creat-1.0 Na-140 
K-4.2 Cl-106 HCO3-27 AnGap-11
___ 07:10AM BLOOD CK(CPK)-212
___ 02:05AM BLOOD CK(CPK)-744*
___ 06:40PM BLOOD CK(CPK)-___ year old male with hypertension and hyperlipidemia presents 
with inferior STEMI s/p PROMUS DES to RCA.
.  
# CAD:  The patient presented to OSH with acute onset CP. EKG 
showed inferior STE. On transfer, he was taken urgently to the 
cath lab, where an RCA thrombus was visualized. He received a 
DES to the RCA. Cath was also notable for 40% LM disease, 40% 
mid-LAD lesion, and 70% OM1 lesion. CK peaked at 744. Echo 
showed normal EF ~ 55% with hypokinesis of the inferolateral 
segments. Integrillin was continued for 18 hours post-cath. 
Discharge regimen included ASA 325 mg, Atorvastatin 80 mg, 
Plavix 75 mg, Toprol 25 mg, and lisinopril 5 mg daily. Lipids 
were pending at the time of discharge. 
.  
# HTN: The patient was unsure of his home BP regimen on 
admission. He was discharged on lisinopril 5 mg and Toprol 25 mg 
per day. 
. 
The patient was on subQ heparin for DVT prophylaxis. He remained 
full code. He was scheduled with PCP and cardiology ___ on 
discharge. 
 
Medications on Admission:
Aspirin 81 mg po qdaily
Simvastatin 20 mg po qdaily
Two other blood pressure medications that patient did not know. 
HCTZ/amlodipine? Pharmacy was closed.
 
Discharge Medications:
1. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*11*
2. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*11*
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*11*
4. Toprol XL 25 mg Tablet Extended Release 24 hr Sig: One (1) 
Tablet Extended Release 24 hr PO once a day.
Disp:*30 Tablet Extended Release 24 hr(s)* Refills:*11*
5. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*11*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
ST elevation Myocardial Infarction
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for you at the ___ 
___. You were admitted for a heart attack - an ST 
elevation MI. You had a drug-eluting stent placed into your 
right coronary artery. We started several new medications to 
help heal your heart and to keep your stent open. The most 
important medications are Plavix and Aspirin, which will help to 
prevent your stent from becoming blocked. You should never stop 
these medications unless instructed by your cardiologist. 
. 
We made the following changes to your medications: 
We INCREASED Aspirin to 325 mg per day
We STOPPED Simvastatin
We STARTED Atorvastatin 80 mg per day
We STARTED Plavix 75 mg per day
We STARTED Lisinopril 5 mg per day
We STARTED Toprol XL 25 mg per day
. 
Your follow-up information is listed below. 

 
Followup Instructions:
___